US04900352
Preparation of 2-(4,6-dimethoxypyrimidin-2-yl)oxy-6-fluorobenzoic acid (Compound No. 19)
To a solution in ethanol (10 ml) of methyl 2-(4,6-dimethoxypyrimidin-2-yl)oxy-6-fluorobenzoate (3.0 g), an equimolar amount of an aqueous sodium hydroxide solution (30 ml) was added, and the mixture was reacted at room temperature for 12 hours under stirring. The reaction mixture was poured into water, and extracted with ethyl ether, and non-reacted starting materials were removed. Then, the aqueous phase was acidified with a 10% hydrochloric acid aqueous solution. The aqueous solution was then extracted with ethyl ether. The extract was washed with water and dried, and then the solvent was distilled off under reduced pressure to obtain the above identified compound as a white crystal (1.5 g). (Melting point: 133°-134° C.)

reactant | methyl 2-(4,6-dimethoxypyrimidin-2-yl)oxy-6-fluorobenzoate | 3.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C(=CC=C1)F | C14H13FN2O5
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4,6-dimethoxypyrimidin-2-yl)oxy-6-fluorobenzoic acid | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)F | C13H11FN2O5
